Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
motor vehicle collision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ female with history of SVT on 
beta-blocker, presenting for
evaluation of motor vehicle collision with front end damage, 
airbag deployment. She was restrained. She was ambulatory on 
scene however confused. In the ED, she was hemodynamically 
stable and endorsed sternal chest pain. CT chest/abdomen 
demonstrated possible nondisplaced sternal fracture and 
incidental finding of ~3.0cm pleural-based LUL mass. Patient 
will be admitted to ___ service for 24 hours for telemetry and 
pain control.
 
Past Medical History:
Hyperlipidemia
SVTs (PVCs, palpitations for ___ minutes, on propanolol daily,
followed by cardiologist Dr. ___ ovarian dermoid cyst s/p open removal (low transverse
incision, ___
Hx pilonidal cyst s/p removal (___)

 
Social History:
___
Family History:
Mother- colon and esophageal cancer
Father- CHF 
 
Physical ___:
Discharge Physical Exam:
VS: 97.4, 122/86, 69, 16, 99 RA
Gen: A&O x3. c/o dull CP over sternum
CV: RRR, nml S1 S2, no m/g/r
Pulm: no increased WOB, CTAB. Tender to palpation over sternum
Abd: soft NT/ND
Ext: WWP, small abrasion on left shin, bruising to left upper 
thigh
 
Pertinent Results:
___ 05:32AM BLOOD WBC-5.1 RBC-4.09 Hgb-13.0 Hct-38.5 MCV-94 
MCH-31.8 MCHC-33.8 RDW-12.2 RDWSD-42.0 Plt ___
___ 12:15PM BLOOD WBC-6.4 RBC-4.36 Hgb-13.9 Hct-41.4 MCV-95 
MCH-31.9 MCHC-33.6 RDW-12.0 RDWSD-42.1 Plt ___
___ 05:32AM BLOOD Glucose-91 Creat-1.0 Na-143 K-4.0 Cl-105 
HCO3-23 AnGap-15
___ 05:32AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.2

STUDIES:
CT Chest/Abdomen/Pelvis    Date: ___   
Impression:
1. 3.0 cm pleural based left upper lung lesion may represent a
lipoma versus liposarcoma. Recommend chest MRI for further
evaluation. 
2. Subtle indentation of the anterior proximal sternal cortex is
equivocal for a possible nondisplaced sternal fracture. 
3. No other acute fractures or evidence of injury to the soft
tissue structures within the torso. 

MRI Chest   Date: ___
A cystic lesion with peripheral enhancing nodularity located
along the posterolateral left upper lung pleura is 
indeterminate.
The leading differential consideration is a cystic neurogenic
tumor related to the intercostal nerve or a branch of the
intercostal nerve. Less likely considerations include a
peripheral bronchogenic cyst given associated enhancing
nodularity, solitary fibrous tumor of the pleura given the
relatively small amount of solid tissue, or cystic/necrotic
malignancy such as mesothelioma or primary lung cancer. The
lesion is very well-circumscribed and there is no microscopic or
macroscopic fat, making liposarcoma exceedingly unlikely. 
 
Brief Hospital Course:
___ year old F with history HLD, SVT on propranolol who presents 
s/p MVC with small nondisplaced sternal fracture with incidental 
finding of 3cm pleural-based lung mass on CT. EKG done showed 
NSR. The patient was admitted to ___ for monitoring over night. 
Thoracic Surgery was consulted in regards to the incidental lung 
lesion finding. They requested an MRI.  MRI demonstrated cystic 
lesion, possibly cystic neurogenic tumor. The patient will 
follow up with Dr. ___ in outpatient clinic. Tertiary exam was 
negative for any other injuries. 

Pain was well controlled. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay. 
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Propranolol LA 80 mg PO QHS  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*15 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM sternal fx 
RX *lidocaine [Lidocaine Pain Relief] 4 % 1 patch to sternum 
once a day Disp #*15 Patch Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Propranolol LA 80 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nondisplaced sternal fracture

Incidental finding:
Left upper lung cystic lesion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a motor vehicle crash. You were 
found to have a non-displaced sternal fracture. You were 
monitored overnight on telemetry. Your pain is well controlled 
and your telemetry and EKGs have been stable with no evidence of 
injury to your heart. During your trauma work-up, there was an 
incidental finding of a lung lesion. This was further 
characterized by an MRI. The Thoracic Surgery team was 
consulted, they recommend outpatient follow-up for ongoing 
management. You are now medically clear for discharge home to 
continue your recovery. 

* Your injury caused a sternal fractures which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___